US04507313
A: 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid imidazolide
A solution of 1.8 ml thionyl chloride in 25 ml of dry tetrahydrofuran (THF) was added dropwise to a solution of 6.8 g imidazole in 75 ml dry THF. After stirring for 1 hour, the reaction mixture was filtered and the filtrate was added dropwise to 0.0125 mole of dry 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid in 100 ml dry dimethyl formamide. The reaction mixture was left overnight at room temperature with exclusion of water.

reactant | thionyl chloride | 1.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole | 6.8 g | N1C=NC=C1 | C3H4N2
reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 0.0125 mole | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)O | C13H11N3O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 75 ml | O1CCCC1 | C4H8O
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid imidazolide | [N-]1C=NC=C1.CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)O | InChI=1S/C13H11N3O3.C3H3N2/c1-15-6-10-11(13(18)19)14-7-16(10)9-5-3-2-4-8(9)12(15)17;1-2-5-3-4-1/h2-5,7H,6H2,1H3,(H,18,19);1-3H/q;-1
